US06960591B2
To a solution of 2-(5-amino-1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3,5-difluorophenyl)-3-phenylpropane-1,3-dione (400 mg) and ethanol (10 ml) was added hydroxymethylbenzotriazole (168 mg) at room temperature, and the reaction solution was stirred at room temperature for 20 hours. The reaction solution was filtered and the resulting solid matter was dissolved in THF (10 ml). Thereto was added sodium borohydride (78 mg) at room temperature and the reaction mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with ethyl acetate (10 ml) and the organic layer was washed with saturated sodium hydrogen carbonate aqueous solution, water and saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography and eluted with chloroform-methanol (100:1 (v/v)) to obtain 1-(3,5-difluorophenyl)-2-[5-methylamino-1,3-dihydro-2H-benzimidazol-2-ylidene]-3-phenylpropane-1,3-dione (163 mg, 48%).

reactant | 2-(5-amino-1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3,5-difluorophenyl)-3-phenylpropane-1,3-dione | 400 mg | NC1=CC2=C(NC(N2)=C(C(=O)C2=CC(=CC(=C2)F)F)C(=O)C2=CC=CC=C2)C=C1 | C22H15F2N3O2
reactant | hydroxymethylbenzotriazole | 168 mg | OCC1=CC=CC=2NN=NC21 | C7H7N3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(3,5-difluorophenyl)-2-[5-methylamino-1,3-dihydro-2H-benzimidazol-2-ylidene]-3-phenylpropane-1,3-dione | 163 mg, 48% | FC=1C=C(C=C(C1)F)C(C(C(=O)C1=CC=CC=C1)=C1NC2=C(N1)C=CC(=C2)NC)=O | C23H17F2N3O2
